US05397801
B) 5-Bromo-2-(3,4-dimethoxyphenylsulfonamido)-2'-fluorobenzophenone
20 g of 2-amino-5-bromo-2'-fluorobenzophenone are heated at 85° C. for 48 hours in 120 ml of dry pyridine in the presence of 20 g of 3,4-dimethoxyphenylsulfonyl chloride. The mixture is cooled, poured into ice-cold water, the solid is filtered off, the solid is extracted with AcOEt, the organic phase is washed with water, a solution of hydrochloric acid (1N), water and then saline water. After drying over magnesium sulfate and evaporating the solvent under vacuum, a solid is obtained which is recrystallized from DCM/isopropyl ether.

reactant | 2-amino-5-bromo-2'-fluorobenzophenone | 20 g | NC1=C(C(=O)C2=C(C=CC=C2)F)C=C(C=C1)Br | C13H9BrFNO
reactant | 3,4-dimethoxyphenylsulfonyl chloride | 20 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | 5-Bromo-2-(3,4-dimethoxyphenylsulfonamido)-2'-fluorobenzophenone | BrC=1C=CC(=C(C(=O)C2=C(C=CC=C2)F)C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC | C21H17BrFNO5S
